US07462630B2
Synthesis of N-(t-butoxycarbonyl)-N-isobutylglycine:
366 mg (5.01 mmol) of isobutylamine and 1.52 g (15.0 mmol) of triethylamine were dissolved in 10 ml of water. 695 mg (5.00 mmol) of bromoacetic acid was added to the obtained solution, and they were stirred for 1 hour. A solution of 1.63 g (7.50 mmol) of di(t-butyl) dicarbonate in 5 ml of 1,4-dioxane was added to the resultant mixture, and they were stirred for additional 1 hour. 10 ml of 1 N aqueous sodium hydroxide solution was added to the reaction mixture. After extracting with dichloromethane twice, 11 ml of 1 N aqueous hydrochloric acid solution was added to the aqueous layer. After extracting with dichloromethane 3 times, the obtained organic layer was dried over anhydrous sodium sulfate and then the solvent was evaporated under reduced pressure to obtain the title compound.

reactant | isobutylamine | 5.01 mmol, 366 mg | C(C(C)C)N | C4H11N
reactant | triethylamine | 15.0 mmol, 1.52 g | C(C)N(CC)CC | C6H15N
reactant | bromoacetic acid | 5.00 mmol, 695 mg | BrCC(=O)O | C2H3BrO2
reactant | di(t-butyl) dicarbonate | 7.50 mmol, 1.63 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 1 N, 10 ml | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | N-(t-butoxycarbonyl)-N-isobutylglycine | C(C)(C)(C)OC(=O)N(CC(=O)O)CC(C)C | C11H21NO4
